US04016165
In the manner given in Example 1, 7-chloro-2-hydrazino -5-phenyl-3H-1,4-benzodiazepine can be reacted with 3-chloro-4-penten-2-one to give 7-chloro-2-[(2-chloro-2 -vinyl-1-methylethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino -5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | 3-chloro-4-penten-2-one | ClC(C(C)=O)C=C | C5H7ClO
product | 7-chloro-2-[(2-chloro-2 -vinyl-1-methylethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(C(C=C)Cl)C)C2=CC=CC=C2)C1 | C20H18Cl2N4
